US05521179
Using a similar procedure to that of Example 1.d., above, 3-benzyloxycarbonylamino-6-methylpyrid-2-one (1.80 g) was added to a suspension of NaH (0.33 g) in dry dimethylformamide (50 mL). After the mixture had been stirred for 45 min, ethyl iodoacetate (1.48 g) was added; and the mixture was stirred overnight, diluted with 10% hydrochloric acid (300 mL) and extracted with ethyl acetate (3×150 mL). The organic phase was washed with brine (twice), dried and evaporated. The resulting yellow, waxy solid was chromatographed, eluting with ethyl acetate:dichloromethane (3:97), to give ethyl (3-benzyloxycarbonylamino-6-methyl-2-oxo-1,2-dihydro-1-pyridyl)acetate (1.28 g); TLC: Rf =0.52, dichloromethane:ethyl acetate (95:5); NMR: 1.21 (t,3, J=8.6), 2.26 (s,3), 4.16 (q,2, J=8.6), 4.84 (s,2), 5.15 (s,2), 6.20 (d,1, J=9), 7.32-7.43 (m,5), 7.76 (d,1, J=9), 8.38 (s,1); MS: m/z=345(M+1).

reactant | 3-benzyloxycarbonylamino-6-methylpyrid-2-one | 1.80 g | C(C1=CC=CC=C1)OC(=O)NC=1C(NC(=CC1)C)=O | C14H14N2O3
reactant | NaH | 0.33 g | [H-].[Na+]
reactant | ethyl iodoacetate | 1.48 g | ICC(=O)OCC | C4H7IO2
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 300 mL | Cl | ClH
product | ethyl (3-benzyloxycarbonylamino-6-methyl-2-oxo-1,2-dihydro-1-pyridyl)acetate | 1.28 g | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=CC1)C)CC(=O)OCC)=O | C18H20N2O5
